US08211930B2
3-(5-{[(1R,2S)-2-[(2,2-difluoropropanoyl)amino]-1-(2,3-dihydro-1,4-benzodioxin-6-yl)propyl]oxy}-1H-indazol-1-yl)-N-[(3S)-1,1-dioxidotetrahydrothiophen-3-yl]benzamide (E1)
3-(5-((1R,2S)-2-(2,2-difluoropropanamido)-1-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)propoxy)-1H-indazol-1-yl)benzoic acid (I4) (106 mg, 0.20 mmol), (S)-(−)-tetrahydrothiophene-3-amine-1,1-dioxide hydrochloride (I6) (40 mg, 0.23 mmol) and HBTU (95 mg, 0.25 mmol) in DMF (2 mL) was treated with DIEA (0.138 mL, 0.79 mmol). The reaction mixture was stirred at ambient temperature for 45 minutes. Water (10 mL) was added, the formed suspension was stirred for 1 hour. The solid was collected by filtration, washed with water and further purified by HPLC using an Kromasil 100-10-C18, 50×250 mm column, an 30 min gradient from 50% to 90% MeCN in water with flow=40 mL/min and UV=254 nm to collect fractions. Fractions containing the product was freezedried, the resulting solid was dissolved in MeOH and iso-Hexane was added. The biphasic mixture was evaporated to give an solid that was suspended in iso-Hexane containing a small volume of EtOAc, the suspension was stirred at ambient temperature for 18 hours. The crystalline solid was collected by filtration, washed with iso-Hexane and dried. Yield 77 mg (59%).

reactant | 3-(5-((1R,2S)-2-(2,2-difluoropropanamido)-1-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)propoxy)-1H-indazol-1-yl)benzoic acid | 0.20 mmol, 106 mg | FC(C(=O)N[C@H]([C@H](OC=1C=C2C=NN(C2=CC1)C=1C=C(C(=O)O)C=CC1)C1=CC2=C(OCCO2)C=C1)C)(C)F | C28H25F2N3O6
reactant | (S)-(−)-tetrahydrothiophene-3-amine-1,1-dioxide hydrochloride | 0.23 mmol, 40 mg | Cl.S1(C[C@H](CC1)N)(=O)=O
reactant | HBTU | 0.25 mmol, 95 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.79 mmol, 0.138 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | iso-Hexane | CCCC(C)C | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | 10 mL | O | H2O
product | 3-(5-{[(1R,2S)-2-[(2,2-difluoropropanoyl)amino]-1-(2,3-dihydro-1,4-benzodioxin-6-yl)propyl]oxy}-1H-indazol-1-yl)-N-[(3S)-1,1-dioxidotetrahydrothiophen-3-yl]benzamide | FC(C(=O)N[C@H]([C@@H](C1=CC2=C(OCCO2)C=C1)OC=1C=C2C=NN(C2=CC1)C=1C=C(C(=O)N[C@@H]2CS(CC2)(=O)=O)C=CC1)C)(C)F | C32H32F2N4O7S
